US07704996B2
To a solution of 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid benzylamide (3 mmol) in THF (20 mL) is added KOtBu (3.6 mmol) at 0° C. under N2. After stirred at 0° C. for 20 min, the above mixture is added dropwise to a solution of 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester (3.3 mmol) in THF (20 mL) at −78° C. The resulting mixture is gradually warm up to −30° C. over 2.5 h. The reaction is quenched by the addition of H2O. The mixture is extracted twice with AcOEt. The organic layer is dried over Na2SO4, filtered, and concentrated to give 4-[2-(5-benzylcarbamoyl-6-chloro-2-methylsulfanylpyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester as a white solid; 1H-NMR (CDCl3), δ 1.07-1.17 (2H, m), 1.48 (9H, s), 1.62-1.70 (2H, m), 2.54 (3H, s), 2.64 (2H, br t), 4.06 (2H, m), 4.45 (2H, t), 4.64 (2H, d), 6.06 (1H, t), 7.30-7.34 (2H, m), 7.35-7.36 (3H, m).

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid benzylamide | 3 mmol | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1Cl)SC)Cl | C13H11Cl2N3OS
reactant | KOtBu | 3.6 mmol | CC(C)(C)[O-].[K+]
reactant | 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 3.3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[2-(5-benzylcarbamoyl-6-chloro-2-methylsulfanylpyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1C(NCC1=CC=CC=C1)=O)Cl)SC | C25H33ClN4O4S
